US07745623B2
9a) Benzyl 4-(2-oxoazepan-1-yl)piperidin-1-carboxylate
To a solution of benzyl 4-aminopiperidin-1-carboxylate (1.7 g) and triethylamine (1.1 mL) in THF (40 mL) was added dropwise 5-bromohexanoyl chloride (1.1 mL), and the mixture was stirred at 0° C. for 2 hours. The solvent was distilled off under reduced pressure and the residue was diluted with water, and extracted with ethyl acetate. The extract was washed with an aqueous 5% citric acid solution and a saturated saline solution, and dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was dissolved in DMF (40 mL), and cooled at 0° C., sodium hydride (60% in oil; 0.60 g) was added thereto, and the mixture was stirred at 0° C. for one hour, at room temperature for one hour and at 80° C. for 15 hours. The solvent was distilled off under reduced pressure, the residue was diluted with water, and the solution was acidified with 1N hydrochloric acid, and extracted with ethyl acetate. The extract was washed with water and saturated saline solution, and dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=2/1 to 5/1) to obtain the title compound (0.25 g, 10%) as a yellow oil.

reactant | benzyl 4-aminopiperidin-1-carboxylate | 1.7 g | NC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H18N2O2
reactant | triethylamine | 1.1 mL | C(C)N(CC)CC | C6H15N
reactant | 5-bromohexanoyl chloride | 1.1 mL | BrC(CCCC(=O)Cl)C | C6H10BrClO
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | Benzyl 4-(2-oxoazepan-1-yl)piperidin-1-carboxylate | 0.25 g, 10% | O=C1N(CCCCC1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C19H26N2O3
